US09107916B2
C. 5-[(2E)-3-(dimethylamino)prop-2-enoyl]-2-(methylsulfonyl)phenyl acetate
A solution of 5-acetyl-2-(methylsulfonyl)phenyl acetate (1.5 g, 5.8 mmol) and DMF-DMA (1.2 g, 10 mmol) in DMF (20 mL) was stirred at 100° C. overnight. The reaction mixture was cooled, concentrated, and purified by flash column chromatography (PE/EtOAc=4:1-2:1) to give the title compound (0.5 g, 30%). [M+H] Calc'd for C13H17NO4S, 284. Found, 284.

reactant | 5-acetyl-2-(methylsulfonyl)phenyl acetate | 5.8 mmol, 1.5 g | C(C)(=O)OC1=C(C=CC(=C1)C(C)=O)S(=O)(=O)C | C11H12O5S
reactant | DMF-DMA | 10 mmol, 1.2 g | CN(C)C(OC)OC | C5H13NO2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 5-[(2E)-3-(dimethylamino)prop-2-enoyl]-2-(methylsulfonyl)phenyl acetate | 0.5 g, 30% | C(C)(=O)OC1=C(C=CC(=C1)C(\C=C\N(C)C)=O)S(=O)(=O)C | C14H17NO5S
